US05663200
12d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-cyclohexyl-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid
133 g (1.95 mol) of imidazole and 164 g (1.09 mol) of tert-butyldimethylchlorosilane are added, under an argon atmosphere, to an ice-cold solution of 124 g (238 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid in 800 ml of DMF. After 17 h at RT, the reaction mixture is poured onto 1.9 l of ice-water and extracted 3× with 0.8 l of ethyl acetate on each occasion. The organic phases are washed with water, sat. NaHCO3 solution, water, 10% citric acid solution, water and, finally, saline, dried with Na2SO4 and evaporated. The residue is dissolved in 700 ml of methanol and 175 ml of THF, and 175 g of K2CO3 in 820 ml of water are added to this solution, which is then stirred at RT for 1 h. The resulting emulsion is partially evaporated on an RE, and the residue is diluted with ice-water, and this mixture is acidified to pH 4 with 10% citric acid solution while stirring vigorously. The mixture is extracted 3× with ethyl acetate, and the organic phases are washed with water and saline, dried with Na2SO4 and evaporated. Column chromatography (SiO2, hexane→hexane/ethyl acetate 95:5→9:1→2:1→1:1) results in the title compound: TLC Rf (E)=0.15; tRet (II)=22.7 min.

reactant | imidazole | 1.95 mol, 133 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 1.09 mol, 164 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid | 238 mmol, 124 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O)CC1CCCCC1 | C25H39NO6
solvent | DMF | 800 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-cyclohexyl-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O[Si](C)(C)C(C)(C)C)CC1CCCCC1 | C31H53NO6Si
